US07541372B2
{4-[5-(4-Fluoro-2-methoxy-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazol-5-yl}-methanol
To a solution of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (1.95 g, 5.56 mmol) in carbon tetrachloride (20 mL) was added N-bromo succinimide (990 mg, 5.56 mmol) and 2,2′-azobis(2-methylpropionitrile) (46 mg, 0.28 mmol) and the reaction mixture was stirred for 4 h at 70° C. Further 2,2′-azobis(2-methylpropionitrile) (46 mg, 0.28 mmol) was added and stirring was continued for another 14 h at 70° C. N-Bromo succinimide (378 mg, 2.12 mmol) was added and the mixture stirred for another 4 h at 90° C. After the reaction mixture was cooled to 0° C. the suspension was filtered off and was washed with dichloromethane (30 mL l) and aqueous sodium hydrogencarbonate (1 N). It was extracted with dichloromethane and dried over sodium sulfate resulting in crude material (1.66 g). A part of this light brown solid (200 mg) was suspended in water (0.5 mL) and DMSO (2.0 mL) and the reaction mixture was stirred for 18 h at 60° C. the resulting solution was diluted with ethyl acetate (10 mL) and washed with water (10 mL) and brine (10 mL). The aqueous layers were extracted with ethyl acetate. Drying over sodium sulfate and urification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=70:10:20 to 20:60:20) afforded the title compound (57 mg, 33%) as a white solid. MS: m/e=368.1 [M+H]+.

reactant | 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 5.56 mmol, 1.95 g | FC1=CC(=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H14FN3O3
reactant | N-bromo succinimide | 5.56 mmol, 990 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.28 mmol, 46 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.28 mmol, 46 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-Bromo succinimide | 2.12 mmol, 378 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | {4-[5-(4-Fluoro-2-methoxy-phenyl)-[1,3,4]oxadiazol-2-yl]-3-phenyl-isoxazol-5-yl}-methanol | 57 mg, 33% | FC1=CC(=C(C=C1)C1=NN=C(O1)C=1C(=NOC1CO)C1=CC=CC=C1)OC | C19H14FN3O4
